US07456164B2
{3-[4-(4-Dimethylaminomethyltetrahydropyran-4-yl)phenoxy]-propyl}diethyl-amine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (500 mg, 2.13 mmol), (3-chloro-propyl)-diethyl-amine (319 mg, 2,13 mmol), DMF (10 ml) and K2CO3 (1.18 g, 8.52 mmol) were reacted together according to general procedure B. Purification by chromatography on silica, eluant (36% EtOH: 1% NH3 in DCM) gave the title compound as a pale yellow clear oil (160 mg, 22%). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.86 (d, 2H), 4.00 (t, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 2.61 (t, 2H), 2.54 (q, 4H), 2.40 (s, 2H), 2.15-1.82 (m, 6H), 1.97 (s, 6H), 1.02 (t, 6H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 2.13 mmol, 500 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | (3-chloro-propyl)-diethyl-amine | 2,13 mmol, 319 mg | ClCCCN(CC)CC | C7H16ClN
reactant | K2CO3 | 8.52 mmol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | {3-[4-(4-Dimethylaminomethyltetrahydropyran-4-yl)phenoxy]-propyl}diethyl-amine | 160 mg, 22% | CN(C)CC1(CCOCC1)C1=CC=C(OCCCN(CC)CC)C=C1 | C21H36N2O2
